US07538249B2
2-(3-hydroxy-1-phenyl-propyl)-4-methyl-phenol
6-methyl-4-phenyl-chroman-2-one, 250 gins was stirred in 1.25 liters methanol at room temperature. Sodium borohydride 70 gms was added slowly, whilst maintaining the temperature at room temperature. The reaction mixture was stirred for 18 hours. After completion of reaction, the pH of the reaction mass was adjusted to pH 5 using acetic acid. The reaction mixture was concentrated under vacuum and 2 liters of water were added. The reaction mass was stirred for 30 minutes and the solids filtered. The solids were dried at 55° C. in a hot air oven for 20 hours. Weight 248 gms.

reactant | 6-methyl-4-phenyl-chroman-2-one | CC=1C=C2C(CC(OC2=CC1)=O)C1=CC=CC=C1 | C16H14O2
reactant | Sodium borohydride | 70 gms | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 1.25 liters | CO | CH4O
product | 2-(3-hydroxy-1-phenyl-propyl)-4-methyl-phenol | OCCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)O | C16H18O2
